US05166214
Part A. A solution of γ-valerolactone (25.0 g, 0.249 mol) in toluene (50 mL) and n-heptylamine (35.96 g, 0.312 mol) was heated to reflux for 18 hours under a nitrogen atmosphere. The reaction mixture was allowed to cool to ambient temperature, diluted with ethyl acetate (300 mL), washed with 1N aqueous HCl (50 mL), water, brine, dried over magnesium sulfate and concentrated to give a white solid. The product was crystallized from ethyl ether:hexane to give N-heptyl-5-hydroxypentanamide (41.8 g, 0.194 mol) as white plates, mp 55°-6°. 1H NMR (CDCl3) δ6.06(bs,1H), 3.61(t,2H), 3.24(q,2H), 3.19(bs,1H), 2.19(t,2H), 1.80-1.23(m,14H), 0.866(t,3H).

reactant | γ-valerolactone | 0.249 mol, 25.0 g | C1(CCC(C)O1)=O | C5H8O2
reactant | n-heptylamine | 0.312 mol, 35.96 g | C(CCCCCC)N | C7H17N
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-heptyl-5-hydroxypentanamide | 0.194 mol, 41.8 g | C(CCCCCC)NC(CCCCO)=O | C12H25NO2
